US04652575
A mixture of 24.76 g (65.6 mmol) of N-benzoyl-N'-(2-(((5-(dimethylamino)methyl-2-furanyl)methyl)thio)ethyl)-thiourea and 5.6 g (40.5 mmol) of potassium carbonate in 160 ml ethanol and 100 ml water is heated under stirring at 65° C. An additional amount of 3.45 g (25 mmol) potassium carbonate is added after 30 and 75 minutes respectively. After 90 minutes the ethanol is eliminated by vacuum distillation. A reaction mixture is diluted with 200 ml 5% sodium carbonate and extracted with dichloromethane (3×250 ml). The organic compound is washed with 5% sodium carbonate (2×500 ml), dried over anhydrous magnesium sulfate and concentrated to a brown oil. After chromatography on 500 g silica gel in dichloromethane/methanol 9:1, 16.8 g of N-(2-(((5-(dimethylamino)methyl-2-furanyl)methyl)thio)ethylthiourea oil is obtained.

reactant | N-benzoyl-N'-(2-(((5-(dimethylamino)methyl-2-furanyl)methyl)thio)ethyl)-thiourea | 65.6 mmol, 24.76 g | C(C1=CC=CC=C1)(=O)NC(=S)NCCSCC=1OC(=CC1)CN(C)C | C18H23N3O2S2
reactant | potassium carbonate | 40.5 mmol, 5.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 25 mmol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-(((5-(dimethylamino)methyl-2-furanyl)methyl)thio)ethylthiourea | CN(C)CC1=CC=C(O1)CSCCNC(=S)N | C11H19N3OS2
